US03950525
4-Diethylamino-6-(p-hydroxyphenyl)pyrimidine hydrobromide
A solution of 18.6 g. (0.1 mole) of 4-diethylamino-6-(p-methoxyphenyl)pyrimidine in 30 ml. of 48% hydrobromic acid and 30 ml. of glacial acetic acid is heated to the reflux temperature and gaseous hydrogen bromide slowly introduced below the surface during the first two hours of refluxing. Heating is continued until thin layer chromatography indicates the reaction is complete. The reaction is cooled and the excess acetic acid and hydrobromic acid are removed under reduced pressure. The residual product is triturated with acetone, filtered and recrystallized from ethanol/hexane.

reactant | 4-diethylamino-6-(p-methoxyphenyl)pyrimidine | 0.1 mole | C(C)N(C1=NC=NC(=C1)C1=CC=C(C=C1)OC)CC | C15H19N3O
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Diethylamino-6-(p-hydroxyphenyl)pyrimidine hydrobromide | Br.C(C)N(C1=NC=NC(=C1)C1=CC=C(C=C1)O)CC | InChI=1S/C14H17N3O.BrH/c1-3-17(4-2)14-9-13(15-10-16-14)11-5-7-12(18)8-6-11;/h5-10,18H,3-4H2,1-2H3;1H
